US06432957B1
Synthesis of N-[2-hydroxyethyl]-N-[[2-(3,4,5-trimethoxy-phenyl)pyridin-4-yl]methyl]-Nα-(2-nitrobenzenesulfonyl)-glycine amide
N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(2-nitrobenzenesulfonyl)glycine amide (3.41 g) was dissolved in THF, and to the solution a THF solution (6.1 mL) of 1.0 M tetrabutylammonium fluoride was added, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=10:1) to obtain the title compound.

reactant | N-[2-(tert-Butyldimethylsilyloxy)ethyl]-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]-Nα-(2-nitrobenzenesulfonyl)glycine amide | 3.41 g | [Si](C)(C)(C(C)(C)C)OCCN(C(CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C31H42N4O9SSi
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 6.1 mL | C1CCOC1 | C4H8O
product | N-[2-hydroxyethyl]-N-[[2-(3,4,5-trimethoxy-phenyl)pyridin-4-yl]methyl]-Nα-(2-nitrobenzenesulfonyl)-glycine amide | OCCN(C(CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C25H28N4O9S
